US04619881
Then, 4.32 g (0.01 mol) of 2,4,5-tris(4-nitrophenyl)oxazole was mixed with 200 ml of N,N-dimethylformamide and 8 g of an iron powder (reduced iron available from Wako Pure Chemical Industries, Ltd.). To the resulting mixture, 4 ml of concentrated hydrochloric acid and 12 ml of water were added, and the mixture was heated to 100° C. while stirring well. After reacting for 1 hour, the reacting solution was neutralized to pH: 8 with a saturated aqueous solution of sodium carbonate, and while maintained at 100° C., it was filtered in a heated state. The filtrate was poured into 1 l of iced water. The white precipitate formed of 2,4,5-tris(4-aminophenyl)oxazole was filtered off and dried. Yield: 3.27 g (96%).

reactant | 2,4,5-tris(4-nitrophenyl)oxazole | 0.01 mol, 4.32 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC(=C(N1)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)[N+](=O)[O-] | C21H12N4O7
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 8 g | [Fe] | Fe
solvent | water | 12 ml | O | H2O
product | 2,4,5-tris(4-aminophenyl)oxazole | NC1=CC=C(C=C1)C=1OC(=C(N1)C1=CC=C(C=C1)N)C1=CC=C(C=C1)N | C21H18N4O
